US05324747
A solution of 1.88 g (4.47 mmol) of N-[4-[(decylamino)carbonyl]phenyl]-N-(2-methoxy-2-oxoethyl)glycine methyl ester and 17.0 ml (17.9 mmol) of 1 N NaOH in 125 ml of methanol was kept at room temperature for 18 hours. The solvent was removed, water was added to the residue and the pH was adjusted to 2 with 6 N HCl. The precipitate was filtered and recrystallized from methanol-water to give 1.63 g (93% yield, mp 155°-157°) of N-(carboxymethyl)-N-[4-[(decylamino)carbonyl]phenyl]glycine.

reactant | N-[4-[(decylamino)carbonyl]phenyl]-N-(2-methoxy-2-oxoethyl)glycine methyl ester | 4.47 mmol, 1.88 g | COC(CN(CC(=O)OC)C1=CC=C(C=C1)C(=O)NCCCCCCCCCC)=O | C23H36N2O5
reactant | NaOH | 17.9 mmol, 1 N, 17.0 ml | [OH-].[Na+]
solvent | methanol | 125 ml | CO | CH4O
product | N-(carboxymethyl)-N-[4-[(decylamino)carbonyl]phenyl]glycine | 1.63 g, 93% yield | C(=O)(O)CN(CC(=O)O)C1=CC=C(C=C1)C(=O)NCCCCCCCCCC | C21H32N2O5
